US08211908B2
To a mixed solution of 0.17 g of tert-butyl (5-(bromomethyl)pyrazin-2-yl)carbamate in 4 mL of dimethyl sulfoxide and 2 mL of dichloromethane, 0.26 g of trimethylamine N-oxide dihydrate was added under cooling with ice, and the mixture was stirred for 2 hours. Thereto were added water and chloroform, the organic layer was separated, and washed with a saturated aqueous sodium hydrogen carbonate solution, water and a saturated aqueous sodium chloride solution. The organic layer was dried over anhydrous magnesium sulfate, and the solvent was distilled off under reduced pressure to obtain 0.10 g of tert-butyl (5-formylpyrazin-2-yl)carbamate as a white solid.

reactant | tert-butyl (5-(bromomethyl)pyrazin-2-yl)carbamate | 0.17 g | BrCC=1N=CC(=NC1)NC(OC(C)(C)C)=O | C10H14BrN3O2
reactant | trimethylamine N-oxide dihydrate | 0.26 g | O.O.C[N+](C)(C)[O-]
reactant | water | O | H2O
reactant | chloroform | C(Cl)(Cl)Cl | CHCl3
solvent | dimethyl sulfoxide | 4 mL | CS(=O)C | C2H6OS
solvent | dichloromethane | 2 mL | ClCCl | CH2Cl2
product | tert-butyl (5-formylpyrazin-2-yl)carbamate | 0.10 g | C(=O)C=1N=CC(=NC1)NC(OC(C)(C)C)=O | C10H13N3O3
